US05411973
1,1,1-Trifluoro-2-methyl-3-(4-phenylsulfonylphenylthio)propan-2-ol.
Potassium hydroxide (0.129 g, 2.3 mmol) in water (2 mL) was added dropwise to a stirred suspension of trimethylsulfoxonium iodide (0.476 g, 2.2 mmol), trifluoroacetone (0.258 g, 2.3 mmol) in dichloromethane (5 mL) under nitrogen at 0° C. The mixture was stirred for 0.5 hours and was then refluxed for a further 0.5 hour. After cooling to room temperature a solution of 4-(phenylsulfonyl)thiophenol (0.5 g, 2 mmol), potassium hydroxide (0.112 g, 2 mmol), and water (5 mL) was added in one portion and the mixture was stirred for 2 hours. The reaction mixture was diluted with dichloromethane, washed (saturated aqueous ammonium chloride solution, water, brine), and dried (Na2SO4). Evaporation gave an oil that crystallized from ether/ethyl acetate/hexane to give a white solid. The filtrate was evaporated to give a solid which was recrystallized from ether/hexane to give the title compound (0.24 g); mp 100°-102° C.; NMR: 1.35 (s,3 , CH3), 3.35 (m,2, SCH2), 6.41 (s,1, OH), 7.57 (d,2, J=9, Ar), 7.67 (m,3, Ar), 7.83 (d,2, J=8.7, Ar), 7.94 (d,2, J=6.9, Ar). MS: m/z=377 (M+1). Analysis for C16H15F3O3S2 : Calculated: C, 51.06; H, 4.02; Found: C, 51.50: H, 3.94.

reactant | Potassium hydroxide | 2.3 mmol, 0.129 g | [OH-].[K+]
reactant | trimethylsulfoxonium iodide | 2.2 mmol, 0.476 g | [I-].C[S+](=O)(C)C
reactant | trifluoroacetone | 2.3 mmol, 0.258 g | FC(C(C)=O)(F)F | C3H3F3O
reactant | 4-(phenylsulfonyl)thiophenol | 2 mmol, 0.5 g | C1(=CC=CC=C1)S(=O)(=O)C1=CC=C(C=C1)S | C12H10O2S2
reactant | potassium hydroxide | 2 mmol, 0.112 g | [OH-].[K+]
solvent | water | 2 mL | O | H2O
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | water | 5 mL | O | H2O
product | 1,1,1-Trifluoro-2-methyl-3-(4-phenylsulfonylphenylthio)propan-2-ol | 0.24 g | FC(C(CSC1=CC=C(C=C1)S(=O)(=O)C1=CC=CC=C1)(O)C)(F)F | C16H15F3O3S2
